US07452892B2
A. Preparation of 7,8-bis(4-chlorophenyl)-5-(isopropylamino)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a stirring solution of 5-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (39 mg, 0.10 mmol) in 1 mL THF, was added isopropylamine (18 mg, 0.30 mmol). The reaction mixture was stirred at room temperature for 1 h and then concentrated under reduced pressure. The resulting crude title compound was used in the next step without further purification.

reactant | 5-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 0.10 mmol, 39 mg | ClC1=NC(=C(C=2N1C(NN2)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4O
reactant | isopropylamine | 0.30 mmol, 18 mg | C(C)(C)N | C3H9N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 7,8-bis(4-chlorophenyl)-5-(isopropylamino)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)NC(C)C)C(NN2)=O)C2=CC=C(C=C2)Cl | C20H17Cl2N5O
